US04885373
dl-7-[N-(2-Hydroxyethyl)amino]-2,3,5,6,7,8-hexahydronaphtho[2,3-b]furan
7.7 g of 7-amino-2,3,5,6,7,8-hexahydronaphtho-[2,3-b]furan, 5 g of bromoethanol, 40 ml of methylene chloride, 12 ml of 40% strength sodium hydroxide in water and 1 g of Triton B are stirred vigorously at room temperature for 48 hours. After separation following settling, the methylene chloride is evaporated off in the cold and the residue is taken up with ethyl ether, which is exhaustively extracted with hydrochloric acid. The alkalinized acid phases yield an oil having the expected structure.

reactant | 7-amino-2,3,5,6,7,8-hexahydronaphtho-[2,3-b]furan | 7.7 g | NC1CCC2=CC3=C(OCC3)C=C2C1 | C12H15NO
reactant | bromoethanol | 5 g | BrC(C)O | C2H5BrO
reactant | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 7-[N-(2-Hydroxyethyl)amino]-2,3,5,6,7,8-hexahydronaphtho[2,3-b]furan | OCCNC1CCC2=CC3=C(OCC3)C=C2C1 | C14H19NO2
